US09415047B2
6-cyano-1H-indole (14.2 g, 0.10 mol) was dissolved into 200 ml of 20% wt. sodium hydroxide, 4-chlorobromobutane (34.3 g, 0.20 mol) and tetrabutyl ammonium bromide (1.0 g) were added, and mixed for 5 min. The mixture was heated to 60° C., stirred to react for 2 hours. Then the reaction solution was cooled down to ambient temperature, 100 ml of dichloromethane was added for extraction and liquid separation. To the aqueous phase, 100 of dichloromethane was added for extraction. Organic phases were mixed, washed with 100 ml of saturated saline. Liquid was separated, and organic phase was evaporated to dryness to produce oily product. Oily products were separated and purified by chromatography with neutral Al2O3 to produce 13.9 g of 6-cyano-1-(4-chlorobutyl)-1H-indole, with a yield of 60.3%.

reactant | 6-cyano-1H-indole | 0.10 mol, 14.2 g | C(#N)C1=CC=C2C=CNC2=C1 | C9H6N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chlorobromobutane | 0.20 mol, 34.3 g | ClCCCCBr | C4H8BrCl
catalyst | tetrabutyl ammonium bromide | 1.0 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 6-cyano-1-(4-chlorobutyl)-1H-indole | 13.9 g, yield of 60.3% | C(#N)C1=CC=C2C=CN(C2=C1)CCCCCl | C13H13ClN2
